US07705027B2
4-(2,4-Bis-benzyloxy-5-bromo-phenyl)-2,4-dioxo-butyric acid ethyl ester
9.75 g sodium (0.424 mol, 3 eq) were dissolved in 500 ml absolute ethanol (1.5 hours). 58 g of 1-(2,4-Bis-benzyloxy-5-bromo-phenyl)-ethanone (0.141 mol, 1 eq) and 30.98 g diethyl oxalate (0.212 mol, 1.5 eq) were added and the mixture was refluxed for 2 hours. After cooling down, the mixture was poured onto 220 ml of 2N aqueous HCl and the product was extracted into 700 ml dichloromethane. The solvent was removed under reduced pressure and the yellow residue was triturated with 150 ml diethyl ether.

reactant | sodium | 0.424 mol, 9.75 g, 3 eq | [Na] | Na
reactant | 1-(2,4-Bis-benzyloxy-5-bromo-phenyl)-ethanone | 0.141 mol, 58 g, 1 eq | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)Br)C(C)=O | C22H19BrO3
reactant | diethyl oxalate | 0.212 mol, 30.98 g, 1.5 eq | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | HCl | 2N, 220 ml | Cl | ClH
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 4-(2,4-Bis-benzyloxy-5-bromo-phenyl)-2,4-dioxo-butyric acid ethyl ester | C(C)OC(C(CC(=O)C1=C(C=C(C(=C1)Br)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O)=O | C26H23BrO6
